US05418218
Synthetic L-histidyl-L-proline diketopiperazine was prepared by coupling benzyloxycarbonyl-L-histidine (about 20 mmol, ICN) with L-prolineamide (about 20 mmol, Vega-Fox) in the presence of hydroxybenzotriazole (about 40 mmol, Aldrich), N-ethylmorpholine (about 20 mmol, Aldrich) and dicyclohexylcarbodiimide (about 20 mmol, Pierce). The solution in about 175 ml of dimethylformamide was stirred in an ice-bath for about 3 hours and then overnight at room temperature.

reactant | benzyloxycarbonyl-L-histidine | about 20 mmol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C14H15N3O4
reactant | L-prolineamide | about 20 mmol | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | hydroxybenzotriazole | about 40 mmol | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | about 20 mmol | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | about 20 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | about 175 ml | CN(C=O)C | C3H7NO
product | L-histidyl-L-proline diketopiperazine | O=C1C(NCCN1)=O.N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C11H16N4O3.C4H6N2O2/c12-8(4-7-5-13-6-14-7)10(16)15-3-1-2-9(15)11(17)18;7-3-4(8)6-2-1-5-3/h5-6,8-9H,1-4,12H2,(H,13,14)(H,17,18);1-2H2,(H,5,7)(H,6,8)/t8-,9-;/m0./s1
